US07425568B2
a) 2-Nitro-1-(2-phenylchroman-6-yloxy)-benzene
6-Hydroxyflavane (0.150 g) was dissolved in dry DMSO (5 ml) under nitrogen. KI (0.166 g) and KOH (0.074g) were added and solution was stirred at room temperature for 15 minutes. 2-Chloro-1-nitrobenzene (0.104 g) was added and the solution was stirred at +90° C. for 2.5 hours. Cooled solution was taken up with CH2Cl2 and washed with H2O and 2M NaOH. Phases were separated and water phase was washed CH2Cl2. All organic phases were combined and washed with 1M HCl and then H2O (until pH˜7) and brine. Solution was dried over Na2SO4 and purified with filtration through the small silica column in CH2Cl2:n-heptane (60:40). 1H-NMR (300 MHz; d6-DMSO): δ 8.01 (dd, 1H, J=8.1 Hz; J=1.7 Hz), 7.69 (m, 1H), 7.50-7.31 (m, 5H), 7.31-7.24 (m, 1H), 7.04 (dd, 1H, J=8.5 Hz; J=1.2 Hz), 6.92 (s, 1H), 6.90 (s, 2H), 5.12 (dd, 1H, J=10.1 Hz; J=2.3 Hz), 2.95 (ddd, 1H, J=16.9 Hz; J=11.2 Hz, J=5.8 Hz), 2.73 (ddd, 1H, J=16.9 Hz; J=3.2 Hz, J=1.7 Hz), 2.25-2.10 (m, 1H), 2.08-1.90 (m, 1H).

reactant | 6-Hydroxyflavane | 0.150 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KOH | 0.074g | [OH-].[K+]
reactant | 2-Chloro-1-nitrobenzene | 0.104 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2-Nitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
